US07709471B2
4-bromo-2,6-difluoro-N-(1-methyl-4-piperidyl)benzamide
4-bromo-difluorobenzoic acid (Fluorochem; 3.0 g, 12.66 mol) and HBTU (5.3 g, 13.92 mol) were added to DMF (80 mL), to this was added the required 4-amino-1-methylpiperidine (Fluorochem; 1.59 g, 13.93 mol) and DIPEA (5.0 mL, 27.85 mol), the reaction was stirred for 48 hours, after which the solvent was removed in vacuo to yield a brown gum. The gum was treated with 2.0 M NaOH (50 mL) and extracted with DCM (3×200 ml). Combined extracts were dried and solvent removed in vacuo to yield a dark orange gum which was recrystallised from hot acetonitrile to give the title compound as a white solid (1.9 g, 45%)

reactant | 4-bromo-difluorobenzoic acid | 12.66 mol, 3.0 g | BrC1=C(C(=C(C(=O)O)C=C1)F)F | C7H3BrF2O2
reactant | HBTU | 13.92 mol, 5.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-amino-1-methylpiperidine | 13.93 mol, 1.59 g | NC1CCN(CC1)C | C6H14N2
reactant | DIPEA | 27.85 mol, 5.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 2.0 M, 50 mL | [OH-].[Na+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2,6-difluoro-N-(1-methyl-4-piperidyl)benzamide | 1.9 g, 45% | BrC1=CC(=C(C(=O)NC2CCN(CC2)C)C(=C1)F)F | C13H15BrF2N2O
